US05998433
b) Synthesis of 1-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one
To a solution of 0.493 g (1.658 mmol) of 1-(5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one in 20 ml of acetic acid, 0.18 g (2.0 mmol) of 50% aqueous dimethylamine and 0.16 g (2.0 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 15 minutes. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=4/1) to yield the desired product.

reactant | 1-(5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one | 1.658 mmol, 0.493 g | O1C=CC2=C1CN(CC2)C(CCCCCC2=CC=CC=C2)=O | C19H23NO2
reactant | dimethylamine | 2.0 mmol, 0.18 g | CNC | C2H7N
reactant | formaldehyde | 2.0 mmol, 0.16 g | C=O | CH2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one | CN(C)CC1=CC2=C(CN(CC2)C(CCCCCC2=CC=CC=C2)=O)O1 | C22H30N2O2
